US07262212B2
4-Benzylpiperazin-1-yl-amine (36.03 g, 188 mmol) was dissolved in methanol (260 ml) and the solution was cooled in an ice-bath, to which a solution of di-tert-butyl dicarbonate (61.66 g, 283 mmol) in methanol (100 ml) was added dropwise over 20 minutes. The mixture was allowed to return to room temperature and stirred overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/acetone=3/1). Isopropyl ether (IPE) (60 ml) and n-hexane (20 ml) were added to thus obtained solid, and the mixture was stirred and then filtered to afford primary crystals. The filtrate was concentrated under reduced pressure, isopropyl ether (10 ml) and n-hexane (10 ml) were added to the residue, and the mixture was stirred and then filtered to afford secondary crystals. These crystals were combined and dried under reduced pressure to afford tert-butyl(4-benzylpiperazin-1-yl)carbamate (42.22 g, yield 77%) as a colorless crystalline powder.

reactant | 4-Benzylpiperazin-1-yl-amine | 188 mmol, 36.03 g | C(C1=CC=CC=C1)N1CCN(CC1)N | C11H17N3
reactant | di-tert-butyl dicarbonate | 283 mmol, 61.66 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 260 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | tert-butyl(4-benzylpiperazin-1-yl)carbamate | 42.22 g, yield 77% | C(C)(C)(C)OC(NN1CCN(CC1)CC1=CC=CC=C1)=O | C16H25N3O2
